US08728515B2
1-Phenyl-1H-tetrazole-5-thiol, 12-bromododecan-1-ol and anhydrous potassium carbonate were mixed together in acetone for 18 hrs at room temperature to provide 12-(1-phenyl-1H-tetrazol-5-ylsulfanyl)-dodecan-1-ol in 77% yield following work up and recrystallisation. Ammonium molybdate (VI) tetrahydrate in 35% H2O2 were added to a stirred solution of the solid in THF IMS (500 ml) at 10° C. and stirred at room temperature for 20 hrs. Work-up and crystallisation gave a white solid (m.p.: 56-58° C.), 12-(1-phenyl-1H-tetrazol-5-sulfonyl)-dodecan-1-ol in 95% yield. N-Bromosuccinimide was added to a solution of the alcohol and triphenylphosphine in dichloromethane and the reaction stirred at room temperature for 75 min. Work-up and purification by chromatography provided a white solid (m.p.: 63-65° C.), 5-(12-bromo-dodecane-1-sulfonyl)-1-phenyl-1H-tetrazole in 72% yield.

reactant | 1-Phenyl-1H-tetrazole-5-thiol | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | 12-bromododecan-1-ol | BrCCCCCCCCCCCCO | C12H25BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 12-(1-phenyl-1H-tetrazol-5-ylsulfanyl)-dodecan-1-ol | 77% yield | C1(=CC=CC=C1)N1N=NN=C1SCCCCCCCCCCCCO | C19H30N4OS
